US05767131
N-(3-(4-Phenylpiperidin-1-yl)propyl)acetoacetamide.
Diketene (1.64 mL, 21.3 mmol, 1.50 equiv) was added at 0° C. to a stirred solution of 1-(3-aminopropyl)-4-phenylpiperidine (3.10 g, 14.2 mmol, 1.00 equiv) in anhydrous THF (30 mL) under argon, and stirring was continued at room temperature for 1 hour. The mixture was concentrated to give 4.50 g (100%) of viscous orange oil, which was characterized spectroscopically and used for the next reaction without purification.

reactant | Diketene | 21.3 mmol, 1.64 mL, 1.50 equiv | C=C1CC(=O)O1 | C4H4O2
reactant | 1-(3-aminopropyl)-4-phenylpiperidine | 14.2 mmol, 3.10 g, 1.00 equiv | NCCCN1CCC(CC1)C1=CC=CC=C1 | C14H22N2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-(3-(4-Phenylpiperidin-1-yl)propyl)acetoacetamide | 4.50 g, 100% | C1(=CC=CC=C1)C1CCN(CC1)CCCNC(CC(=O)C)=O | C18H26N2O2
